US07335658B2
3-(3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}-UREIDO)PROPIONIC ACID ETHYL ESTER
Following the procedure of Example 5, making variations only as required to use 3-isocyanatopropionic acid ethyl ester in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (37% yield). 1H NMR (300 MHz, CDCl3) δ 8.12, 7.92, 7.74, 7.62, 7.55, 7.36, 7.11, 6.65, 3.95-3.90, 3.59, 3.49-3.40, 3.28, 2.36-2.33, 1.63-1.61, 0.94-0.93.

reactant | 3-isocyanatopropionic acid ethyl ester | C(C)OC(CCN=C=O)=O | C6H9NO3
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 3-(3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}-UREIDO)PROPIONIC ACID ETHYL ESTER | C(C)OC(CCNC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C22H25F3N6O4
